US04801598
(c) 5-(N-t-Butylcarbamoyl)-4-(2-chlorophenyl)-3-ethoxycarbonyl-6-methyl-2-[3-(1-methylbenzimidazol-2-yl)propoxymethyl]-1,4-dihydropyridine
N-t-Butyl-3-aminocrotonamide (0.63 g), 2-chlorobenzaldehyde (0.56 g) and ethyl 4-[3-(1-methylbenzimidazol-2-yl)propoxy]-3-ketobutanoate (1.27 g) were dissolved in ethanol (16 ml) and stirred under reflux for 15 hours. The reaction mixture was cooled and the solvent removed under reduced pressure. The residue was chromatographed on silica eluting with 3% methanol in ethyl acetate. The fractions containing the product were combined and evaporated. Recrystallisation of the resulting foam from ethanol yielded the title compound as a white solid (0.33 g, 14%), m.p. 202° C. Found: C, 66.17; H, 6.92; N, 9.48. C32H39ClN4O4 requires C, 66.36; H, 6.79; N, 9.68%.

reactant | N-t-Butyl-3-aminocrotonamide | 0.63 g | C(C)(C)(C)NC(\C=C(\C)/N)=O | C8H16N2O
reactant | 2-chlorobenzaldehyde | 0.56 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | ethyl 4-[3-(1-methylbenzimidazol-2-yl)propoxy]-3-ketobutanoate | 1.27 g | CN1C(=NC2=C1C=CC=C2)CCCOCC(CC(=O)OCC)=O | C17H22N2O4
solvent | ethanol | 16 ml | C(C)O | C2H6O
product | 5-(N-t-Butylcarbamoyl)-4-(2-chlorophenyl)-3-ethoxycarbonyl-6-methyl-2-[3-(1-methylbenzimidazol-2-yl)propoxymethyl]-1,4-dihydropyridine | 0.33 g, 14% | C(C)(C)(C)NC(=O)C=1C(C(=C(NC1C)COCCCC1=NC2=C(N1C)C=CC=C2)C(=O)OCC)C2=C(C=CC=C2)Cl | C32H39ClN4O4
